US03957814
(3-methyl-1-(α,4-dimethylbenzyl)-pyrazol-5-one) ##SPC12##
26 g of acetoacetic acid ethyl ester were dissolved in 20 ml of absolute ethanol. 30.0 g of α-methyl-4-methylbenzylhydrazine in a little absolute ethanol were slowly added to this solution under nitrogen. After the exothermic reaction had subsided, the mixture was heated for 2 hours under reflux. On cooling, the crude product crystallized out and was purified by recrystallization from methanol. Melting point 144°- 146°C; yield 28 g (65% of theory).

reactant | acetoacetic acid ethyl ester | 26 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | α-methyl-4-methylbenzylhydrazine | 30.0 g | CC(C1=CC=C(C=C1)C)NN | C9H14N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-methyl-1-(α,4-dimethylbenzyl)-pyrazol-5-one | CC=1NN(C(C1)=O)C(C1=CC=C(C=C1)C)C | C13H16N2O
